US05314880
N-Cyclohexyl 3-(1H-benzimidazylmethyl)benzamide was prepared by the method of example 9 starting with cyclohexylamine and reacting with trimethylaluminium and ethyl 3-(1H-benzimidazylmethyl)benzoate.

reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
reactant | trimethylaluminium | C[Al](C)C
reactant | ethyl 3-(1H-benzimidazylmethyl)benzoate | N1(C=NC2=C1C=CC=C2)CC=2C=C(C(=O)OCC)C=CC2 | C17H16N2O2
product | N-Cyclohexyl 3-(1H-benzimidazylmethyl)benzamide | C1(CCCCC1)NC(C1=CC(=CC=C1)CN1C=NC2=C1C=CC=C2)=O | C21H23N3O
